US08080572B2
2-(4-Bromobenzyl)-1-propyl-1H-imidazole-4-carboxylic acid ethyl ester (300.0 mg, 854.1 μmol) and [2-(1-trityl-1H-tetrazol-5-yl)phenyl]boronic acid (1.1 g, 2.6 mmol) were combined with 1,1′-bis(diphenylphosphino)ferrocene-palladium(ii)dichloride dichlorometh (244 mg, 299 μmol), dicesium carbonate (974 mg, 3.0 mmol), toluene (11 mL, 100 mmol), and water (2.2 mL, 119.6 mmol), and stirred under nitrogen at 105° C. for 3 hours. The mixture was cooled to room temperature. Water (50 mL) was added, the mixture was extracted with EtOAc (2×50 mL), washed with saturated aqueous NaCl (50 mL), dried over MgSO4, filtered and concentrated. The product was then purified by column chromatography (0-60% EtOAc in Hexanes) to yield 1-propyl-2-[2′-(1-trityl-1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-1H-imidazole-4-carboxylic acid ethyl ester (400 mg).

reactant | 2-(4-Bromobenzyl)-1-propyl-1H-imidazole-4-carboxylic acid ethyl ester | 854.1 μmol, 300.0 mg | C(C)OC(=O)C=1N=C(N(C1)CCC)CC1=CC=C(C=C1)Br | C16H19BrN2O2
reactant | [2-(1-trityl-1H-tetrazol-5-yl)phenyl]boronic acid | 2.6 mmol, 1.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)B(O)O | C26H21BN4O2
reactant | dicesium carbonate | 3.0 mmol, 974 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 100 mmol, 11 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(ii)dichloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | Water | 50 mL | O | H2O
solvent | water | 119.6 mmol, 2.2 mL | O | H2O
product | 1-propyl-2-[2′-(1-trityl-1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-1H-imidazole-4-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C=1N=C(N(C1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H38N6O2
